US03998958
The HBF4 salt of 1,5-dimethyl-2-iminopyrrolidine (6.75 g.; 0.0337 mole) is converted to free base in benzene in the usual manner. Then 5.16 g. (0.0337 mole) of m-chlorophenylisocyanate, dissolved in anhydrous benzene, is added. The reaction mixture is stirred for 2 hours and then the solvent is evaporated in vacuo leaving a solid residue of 1-m-chlorophenyl-3-(1,5-dimethyl-2-pyrrolidylidene)urea, m.p. = 129°-130° C. After recrystallization from ethyl acetate, the m.p. is still 129°-130° C.

reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | 1,5-dimethyl-2-iminopyrrolidine | 0.0337 mole, 6.75 g | CN1C(CCC1C)=N | C6H12N2
reactant | m-chlorophenylisocyanate | 0.0337 mole | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-m-chlorophenyl-3-(1,5-dimethyl-2-pyrrolidylidene)urea | ClC=1C=C(C=CC1)NC(=O)N=C1N(C(CC1)C)C | C13H16ClN3O
